US06348474B1
Methyl 3-(2-chloro-4-hydroxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a mixture of methyl 3-(4-acetoxy-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (2.87 g), methanol (29 ml), 1,4-dioxane (29 ml) and water (2.9 ml) was added sodium hydrogencarbonate (968 mg), and the mixture was stirred at room temperature for 2.5 hr. 1,4-Dioxane (29 ml) was added to dissolve the insoluble matter, and the mixture was stirred for 2 hr. Sodium hydrogencarbonate (968 mg) was added and the mixture was stirred at room temperature for 2 days and at 60° C. for 3 hr and stood overnight. The reaction mixture was partitioned between ethyl acetate and water, and the aqueous layer was again extracted with ethyl acetate. The organic layers were combined and concentrated to dryness under reduced pressure. The residue was pulverized in ether to give the objective compound (1.94 g) as a pale-yellow powder.

reactant | methyl 3-(4-acetoxy-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 2.87 g | C(C)(=O)OC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C18H16ClN3O4
reactant | methanol | 29 ml | CO | CH4O
reactant | sodium hydrogencarbonate | 968 mg | C(O)([O-])=O.[Na+]
reactant | Sodium hydrogencarbonate | 968 mg | C(O)([O-])=O.[Na+]
solvent | 1,4-Dioxane | 29 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.9 ml | O | H2O
solvent | 1,4-dioxane | 29 ml | O1CCOCC1 | C4H8O2
product | Methyl 3-(2-chloro-4-hydroxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 1.94 g | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)O | C16H14ClN3O3
